* C:\Users\ed_th\OneDrive\Dokument\Chalmers\Kandidat\SyncBuck\SyncBuck.asc
Vin N001 0 12
M1 N001 G1 E1 E1 BSB012N03LX3
L1 E1 Out 1µ Rser=1m
C1 Out 0 33µ Rser=0.25
R1 Out 0 0.5
B§Tri Triangle 0 V=0.5 + asin(sin(2*Pi*Fsw*Time))/Pi
B§E_PWMa N003 0 V=15*tanh(Gain*(Duty-V(Triangle)))
B§E_PWMb N004 0 V=15*tanh(Gain*(-(Duty+0.03)+V(Triangle)))
E§Dr1 N002 E1 N003 0 1
E§Dr2 N005 0 N004 0 1
Rg1 N002 G1 0.25
Rg2 N005 G2 0.25
M2 E1 G2 0 0 BSB012N03LX3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\ed_th\OneDrive\Dokument\LTspiceXVII\lib\cmp\standard.mos
.ic V(Out)=0
.param Duty = 0.28
.param Gain = 100
.param Fsw= 1.0Meg
.tran 0 180us 0us 1ns startup uic
.backanno
.end
