*$
* PART NUMBER: FGW50N65WD
* MANUFACTURER: Fuji Electric
* VCES=650V, IC=70A [25C]
* (C) Fuji Electric Co., Ltd. All Rights Reserved.
.SUBCKT FGW50N65WD C G E
X_U1 C G E	MFGW50N65WD_p
X_U2 E C	DFGW50N65WD_sp
.ENDS FGW50N65WD
*$
.SUBCKT MFGW50N65WD_p  C G E
E_E1	C2 C1 VALUE {(-1)*LIMIT(0.00148*PWR(I(V_VC), 1.6052),-10,10)}
R_RE	83 E		10u
M_M1	81 82 83 83 MFIN 
D_DDS	83 81 	DO 
C_CGE	82 83		8.1n
R_RG	G 82  	0.001
D_D1	2 81 		DGD 
V_VC	C C2 		0Vdc
R_R1	1 82  	100MEG  
M_S2	2 81 82 82	MNSW 
R_R2	81 2  	10MEG 
R_RC	C1 85 	10u
M_S1	1 82 81 81	MNSW 
D_DBE	85 81 	DE 
Q_Q1	83 81 85	QOUT 
C_CGD	1 82		6.1n
.MODEL DGD D ( CJO=887.00E-12 M={0.93268*0.65} VJ=0.71145 )
.MODEL MFIN NMOS ( LEVEL=3 L=1U W=1U LEVEL=3
+ VTO=4.45 KP=1.75 THETA=500m )
.MODEL DO D  (IS=3.79p)
.MODEL DE D  (IS=3.79p N=2)
.MODEL QOUT PNP (IS=3.79p NF=1.20 BF=10
+ XTB=1.3 CJC=0.01n CJE=0.01n VAF=10k TF=3.04n)
.MODEL MNSW NMOS Vto=-0.0 KP=5 N=1Meg Rds=1e12
.ENDS MFGW50N65WD_p
*$
*****BODY DIODE SPECIAL MODEL*****
.SUBCKT DFGW50N65WD_sp 1 2
V_V1         N1 N2 DC 0Vdc AC 0Vac
E_E2         N14 0 VALUE { LIMIT(10/(V(N11)+0.001), 0, 5) } 
G_ABMI12     0 N9 VALUE { I(V_Vsns) }
V_Vsns       1 N1 DC 0Vdc AC 0Vac 
C_C1         N8 2  0.1n 
C_C2         N11 0 0.01n 
D_D1         N2 2  DFGW50N65WD_s
R_R2         N11 0 10MEG
E_E7         N3 0 VALUE { LIMIT(I(V_V1)*1000, 0, 5) }
S_S1         N7 N8 N2 2 SW_S1
RS_S1        N2 2 1G
.MODEL       SW_S1 VSWITCH Roff=10e6 Ron=0.1m Voff=-2.5V Von=2.5V
E_E5         0 N10 VALUE { LIMIT(V(N9, 0), -500, 0) } 
E_E3         N8 N13 VALUE { V(N13,2)*(V(N12)-1) }
L_L1         0 N9  1nH  
S_S2         N10 N11 N3 0 SW_S2
RS_S2        N3 0 1G
.MODEL       SW_S2 VSWITCH Roff=10e6 Ron=0.1m Voff=4.0V Von=4.5V
R_R1         N13 2  10  
R_R3         N3 0  10MEG  
G_ABMI1      2 N1 VALUE { V(N7,N8) }
C_C3         N12 0  0.01n  
E_E1         N7 2 VALUE { I(V_V1) }
R_R4         N14 N12  100
.MODEL DFGW50N65WD_s D
+ IS=500.00E-6 N=5.1897 RS=21.058E-3 IKF=0.96595
+ CJO=157.07E-12 M=0.73356 VJ=1.1755 ISR=0
+ BV=670 IBV=100.00E-6 TT=14.50E-9
.ENDS DFGW50N65WD_sp
*$
