*$
* PART NUMBER: FGW75XS65
* MANUFACTURER: Fuji Electric
* VCES=650V, IC=75A @100C
* (C) Fuji Electric Co., Ltd. All Rights Reserved.
.SUBCKT FGW75XS65 C G E
X_U1 C G E	MFGW75XS65_p
.ENDS FGW75XS65
*$
.SUBCKT MFGW75XS65_p C G E
E_E1	C2 C1 VALUE {(-1)*LIMIT(0.09756+0.0052271*I(V_VC)
+ +1.8005E-5*I(V_VC)*I(V_VC),-10,10)}
R_RE	83 E		10u
M_M1	81 82 83 83 MFIN 
D_DDS	83 81 	DO 
C_CGE	82 83		9.5n
R_RG	G 82  	1.75
D_D1	2 81 		DGD
V_VC	C C2 		0Vdc
R_R1	1 82  	100MEG  
M_S2	2 81 82 82	MNSW 
R_R2	81 2  	10MEG 
R_RC	C1 85 	10u
M_S1	1 82 81 81	MNSW 
D_DBE	85 81 	DE 
Q_Q1	83 81 85	QOUT 
C_CGD	1 82		6.7n
.MODEL DGD D ( CJO=1.5064E-9 M={0.49215*0.6} VJ=34.729E-3 )
.MODEL MFIN NMOS ( LEVEL=3 L=1U W=1U LEVEL=3
+ VTO=4.0 KP=9.0 THETA=140m )
.MODEL DO D  (IS=3.79p)
.MODEL DE D  (IS=3.79p N=2)
.MODEL QOUT PNP (IS=3.79p NF=1.20 BF=1
+ XTB=1.3 CJC=0.01n CJE=0.01n VAF=100k TF=3.0n)
.MODEL MNSW NMOS Vto=-0.0 KP=5 N=1Meg Rds=1e12
.ENDS MFGW75XS65_p
*$
