*$
* PART NUMBER: FGW50XS65C
* MANUFACTURER: Fuji Electric
* VCES=650V, IC=50A @100C
* (C) Fuji Electric Co., Ltd. All Rights Reserved.
.SUBCKT FGW50XS65C C G E
X_U1 C G E	MFGW50XS65C_p
X_U2 E C	DFGW50XS65C_sp
.ENDS FGW50XS65C
*$
.SUBCKT MFGW50XS65C_p C G E
E_E1	C2 C1 VALUE {(-1)*LIMIT(0.041331+0.0071217*I(V_VC)
+ +3.7146E-5*I(V_VC)*I(V_VC),-10,10)}
R_RE	83 E		10u
M_M1	81 82 83 83 MFIN 
D_DDS	83 81 	DO 
C_CGE	82 83		6.77n
R_RG	G 82  	3.2
D_D1	2 81 		DGD
V_VC	C C2 		0Vdc
R_R1	1 82  	100MEG  
M_S2	2 81 82 82	MNSW 
R_R2	81 2  	10MEG 
R_RC	C1 85 	10u
M_S1	1 82 81 81	MNSW 
D_DBE	85 81 	DE 
Q_Q1	83 81 85	QOUT 
C_CGD	1 82		4.0n	
.MODEL DGD D ( CJO=1.0938E-9 M={0.4451*0.6} VJ=16.973E-3 )
.MODEL MFIN NMOS ( LEVEL=3 L=1U W=1U LEVEL=3
+ VTO=4.0 KP=4.5 THETA=70m )
.MODEL DO D  (IS=3.79p)
.MODEL DE D  (IS=3.79p N=2)
.MODEL QOUT PNP (IS=3.79p NF=1.20 BF=1
+ XTB=1.3 CJC=0.01n CJE=0.01n VAF=100k TF=0.1n)
.MODEL MNSW NMOS Vto=-0.0 KP=5 N=1Meg Rds=1e12
.ENDS MFGW50XS65C_p
*$
*****BODY DIODE SPECIAL MODEL*****
.SUBCKT DFGW50XS65C_sp 1 2
V_V1         N1 N2 DC 0Vdc AC 0Vac
E_E2         N14 0 VALUE { LIMIT(10/(V(N11)+0.001), 0, 5) } 
G_ABMI12     0 N9 VALUE { I(V_Vsns) }
V_Vsns       1 N1 DC 0Vdc AC 0Vac 
C_C1         N8 2  0.45n
C_C2         N11 0 0.01n
D_D1         N2 2  DFGW50XS65C_s
R_R2         N11 0 10MEG
E_E7         N3 0 VALUE { LIMIT(I(V_V1)*1000, 0, 5) }
S_S1         N7 N8 N2 2 SW_S1
RS_S1        N2 2 1G
.MODEL       SW_S1 VSWITCH Roff=10e6 Ron=0.1m Voff=-0.0V Von=0.5V
E_E5         0 N10 VALUE { LIMIT(V(N9, 0), -500, 0) } 
E_E3         N8 N13 VALUE { V(N13,2)*(V(N12)-1) }
L_L1         0 N9  0.01nH  
S_S2         N10 N11 N3 0 SW_S2
RS_S2        N3 0 1G
.MODEL       SW_S2 VSWITCH Roff=10e6 Ron=0.1m Voff=4.0V Von=4.5V
R_R1         N13 2  10  
R_R3         N3 0  10MEG  
G_ABMI1      2 N1 VALUE { V(N7,N8) }
C_C3         N12 0  0.01n 
E_E1         N7 2 VALUE { I(V_V1) }
R_R4         N14 N12  100
.MODEL DFGW50XS65C_s D
+ IS=500.00E-6 N=3.9704 RS=6.1058E-3 IKF=5.8231
+ CJO=1.2533E-9 M=0.47774 VJ=34.556E-3 ISR=0
+ BV=670 IBV=100.00E-6 TT=37.20E-9
.ENDS DFGW50XS65C_sp
*$
