* RGW00TS65CHR
* Field Stop Trench IGBT with Diode
* 650V 50A
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2019/11/15
*********************C G E
.SUBCKT RGW00TS65CHR 1 2 3
.PARAM T0=25
.FUNC R1(I)     {0.1353*ASINH(I/9.713E-03)*EXP((TEMP-T0)/-1064.9051)+
+                0.0041*I*EXP((TEMP-T0)/89.0906*EXP((TEMP-T0)/-310.8731))}
.FUNC R2(I)     {13.9265*I*EXP((TEMP-T0)/-1064.9051)+(0.0041)*I*EXP((TEMP-T0)/89.0906*EXP((TEMP-T0)/-310.8731))}
.FUNC V1(V,W)   {V-(6.775E-03)*W*EXP((TEMP-T0)/273.826) - 3.212E-02*ASINH(156.1305*W)*EXP((TEMP-T0)/108.1)}
.FUNC V2(V)     {4.312E-24*V**(29.4252*EXP((TEMP-T0)/-561))*EXP((TEMP-T0)/7.4014)}
.FUNC I1(V,W)   {V*TANH(W/0.4766/(TANH((V+(-74.0791))/1.674E+01)+1)/EXP((TEMP-T0)/587.5))}
.FUNC C1(U,V,W) {(2535.6*(V-8.679E-02)+(3241.6)*(1-W/8.679E-01)**-5.751E-01)
+               *(1+(TANH((U-(-1.233E+00))/1.081E+00)-1)/2.455E+00)+(2.477E+00)}
V1  1 11 0
E1 11 12 VALUE={R1(MIN(MAX(I(V1),0),3k))+R2(MIN(MAX(I(V1),-300),0))}
V2  2 21 0
E2 21 22 VALUE={I(V2)*(13.5*(1+TANH(I(V2)))*EXP((TEMP-T0)/570)/2+2*(1-TANH(I(V2)))*EXP((TEMP-T0)/510)/2)}
L1  3 32 4.2n
R1  3 32 10
E3 41  0 VALUE={V1(MIN(MAX(V(22,32),0),30),MIN(MAX(V(42),0),3k))}
E4 42  0 VALUE={V2(MIN(MAX(V(41),0),20))}
E5 43  0 VALUE={I1(V(42),V(12,32))}
G1 43 44 VALUE={V(43,44)/190/EXP((TEMP-T0)/500)}
R2 43 44 1T
C1 44  0 1n
G2 12 32 VALUE={MAX(V(43),V(44)*0.1215)}
R3 12 32 1T
V3 22 23 0
C2 23 12 1p
G3 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),8.679E-02),0.35),MIN(V(22,12),8.679E-02))}
C3 22 32 4.017n
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)     {-3.955E+00*ASINH(I/8.749E+01)*EXP((TEMP-T0)/9.432E+01)+(6.605E-02)*I*EXP((TEMP-T0)/108.9)}
.FUNC I11(V)     {4.501E-08*(EXP(V/4.999E-02/EXP((TEMP-T0)/8.811E+02))-1)*EXP((TEMP-T0)/28.2*EXP((TEMP-T0)/1000000))-
+                 7.7713E-20*(EXP(-V/20.007)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V)     {9.004E-07*(EXP(V/4.999E-02/EXP((TEMP-T0)/8.811E+02))-1)/EXP((TEMP-T0)/8.811E+02)*
+                 EXP((TEMP-T0)/28.2*EXP((TEMP-T0)/1000000))}
.FUNC C12(U,V,W) {(861.5*(V-(6.944E-02))+1229.1*(1-W/6.944E-01)**-4.191E-01)
+               *(1+(TANH((U-(-1.079E+00))/9.390E-01)-1)/2.270E+00)+(-5.541E+00)}
V11  3 51 0
E11 51 52 VALUE={R11(MIN(MAX(I(V11),-2MEG),3MEG))}
V12 52 53 0
C11 53  1 1p
E12 54  0 VALUE={I(V12)*7500*C11(MIN(MAX(V(52,1),0),2))*EXP((TEMP-T0)/1890)}
G11 54 55 VALUE={V(54,55)/8000/(TANH(V(54,55))+1.002)/EXP((TEMP-T0)/395)}
R11 54 55 1T
C12 55  0 1p
G12 52  1 VALUE={I11(MIN(MAX(V(52,1),-2k),2))+MIN(MAX(V(55),-1k),1k)+
+                I(V12)*C12(V(52,1),MAX(V(52,1),6.944E-02),MIN(V(52,1),6.944E-02))}
R12 52  1 1T
.ENDS RGW00TS65CHR
