* RGW60TS65CHR
* Field Stop Trench IGBT with Diode
* 650V 30A
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2021/04/15
*********************C G E
.SUBCKT RGW60TS65CHR 1 2 3
.PARAM T0=25
.FUNC R1(I)     {0.145*ASINH(I/1.000E-02)*EXP((TEMP-T0)/-1477.219)+
+               (0.006)*I*EXP((TEMP-T0)/68.767*EXP((TEMP-T0)/-192.052))}
.FUNC R2(I)     {14.54*I*EXP((TEMP-T0)/-1477.219)+(0.006)*I*EXP((TEMP-T0)/68.767*EXP((TEMP-T0)/-192.052))}
.FUNC V1(V,W)   {V-(1.031E-02)*W*EXP((TEMP-T0)/274.679) - 2.422E-02*ASINH(119.831*W)*EXP((TEMP-T0)/91.6)}
.FUNC V2(V)     {1.552E-24*V**(29.455*EXP((TEMP-T0)/-585.1))*EXP((TEMP-T0)/7.668)}
.FUNC I1(V,W)   {V*TANH(W/0.612/(TANH((V+(-93.017))/1.184E+02)+1)/EXP((TEMP-T0)/299.7))}
.FUNC C1(U,V,W) {(1426*(V-9.302E-02)+(1953.9)*(1-W/9.302E-01)**-5.751E-01)
+               *(1+(TANH((U-(-1.289E+00))/1.243E+00)-1)/2.403E+00)+(2.289E+00)}
V1  1 11 0
E1 11 12 VALUE={R1(MIN(MAX(I(V1),0),3k))+R2(MIN(MAX(I(V1),-300),0))}
V2  2 21 0
E2 21 22 VALUE={I(V2)*(21*(1+TANH(I(V2)))*EXP((TEMP-T0)/220)/2+0.4*(1-TANH(I(V2)))*EXP((TEMP-T0)/6820)/2)}
L1  3 32 0.001n
R1  3 32 10
E3 41  0 VALUE={V1(MIN(MAX(V(22,32),0),30),MIN(MAX(V(42),0),3k))}
E4 42  0 VALUE={V2(MIN(MAX(V(41),0),20))}
E5 43  0 VALUE={I1(V(42),V(12,32))}
G1 43 44 VALUE={V(43,44)/140/EXP((TEMP-T0)/850)}
R2 43 44 1T
C1 44  0 1n
G2 12 32 VALUE={MAX(V(43),V(44)*0.1725)}
R3 12 32 1T
V3 22 23 0
C2 23 12 1p
G3 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),9.302E-02),0.35),MIN(V(22,12),9.302E-02))}
C3 22 32 2.416n
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)     {-3.059E+00*ASINH(I/7.867E+01)*EXP((TEMP-T0)/9.475E+01)+(5.973E-02)*I*EXP((TEMP-T0)/111.4)}
.FUNC I11(V)     {2.593E-08*(EXP(V/4.852E-02/EXP((TEMP-T0)/7.494E+02))-1)*EXP((TEMP-T0)/25.55*EXP((TEMP-T0)/1000000))-
+                 3.7384E-20*(EXP(-V/19.566)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V)     {5.344E-07*(EXP(V/4.852E-02/EXP((TEMP-T0)/7.494E+02))-1)/EXP((TEMP-T0)/7.494E+02)*
+                 EXP((TEMP-T0)/25.55*EXP((TEMP-T0)/1000000))}
.FUNC C12(U,V,W) {(524.2*(V-(8.515E-02))+817.6*(1-W/8.515E-01)**-4.677E-01)
+                *(1+(TANH((U-(-1.143E+00))/1.174E+00)-1)/2.307E+00)+(-1.850E+00)}
V11  3 51 0
E11 51 52 VALUE={R11(MIN(MAX(I(V11),-2MEG),3MEG))}
V12 52 53 0
C11 53  1 1p
E12 54  0 VALUE={I(V12)*8000*C11(MIN(MAX(V(52,1),0),2))*EXP((TEMP-T0)/33110)}
G11 54 55 VALUE={V(54,55)/11000/(TANH(V(54,55))+1.002)/EXP((TEMP-T0)/780)}
R11 54 55 1T
C12 55  0 1p
G12 52  1 VALUE={I11(MIN(MAX(V(52,1),-2k),2))+MIN(MAX(V(55),-1k),1k)+
+                I(V12)*C12(V(52,1),MAX(V(52,1),8.515E-02),MIN(V(52,1),8.515E-02))}
R12 52  1 1T
.ENDS RGW60TS65CHR
