* RGW80TS65CHR
* Field Stop Trench IGBT with Diode
* 650V 40A
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2021/04/16
*********************C G E
.SUBCKT RGW80TS65CHR 1 2 3
.PARAM T0=25
.FUNC R1(I)     {0.139*ASINH(I/9.899E-03)*EXP((TEMP-T0)/-1291.802)+
+               (0.005)*I*EXP((TEMP-T0)/70.938*EXP((TEMP-T0)/-195.408))}
.FUNC R2(I)     {14.075*I*EXP((TEMP-T0)/-1291.802)+(0.005)*I*EXP((TEMP-T0)/70.938*EXP((TEMP-T0)/-195.408))}
.FUNC V1(V,W)   {V-(8.709E-03)*W*EXP((TEMP-T0)/331.423) - 2.691E-02*ASINH(562.473*W)*EXP((TEMP-T0)/84.3)}
.FUNC V2(V)     {3.921E-28*V**(33.788*EXP((TEMP-T0)/-482.5))*EXP((TEMP-T0)/5.45)}
.FUNC I1(V,W)   {V*TANH(W/0.588/(TANH((V+(-122.395))/1.455E+02)+1)/EXP((TEMP-T0)/317.9))}
.FUNC C1(U,V,W) {(1969.2*(V-8.986E-02)+(2548.4)*(1-W/8.986E-01)**-5.874E-01)
+               *(1+(TANH((U-(-1.175E+00))/1.181E+00)-1)/2.441E+00)+(2.559E+00)}
V1  1 11 0
E1 11 12 VALUE={R1(MIN(MAX(I(V1),0),3k))+R2(MIN(MAX(I(V1),-300),0))}
V2  2 21 0
E2 21 22 VALUE={I(V2)*(16*(1+TANH(I(V2)))*EXP((TEMP-T0)/600)/2+2.2*(1-TANH(I(V2)))*EXP((TEMP-T0)/140)/2)}
L1  3 32 2.4n
R1  3 32 10
E3 41  0 VALUE={V1(MIN(MAX(V(22,32),0),30),MIN(MAX(V(42),0),3k))}
E4 42  0 VALUE={V2(MIN(MAX(V(41),0),20))}
E5 43  0 VALUE={I1(V(42),V(12,32))}
G1 43 44 VALUE={V(43,44)/220/EXP((TEMP-T0)/325)}
R2 43 44 1T
C1 44  0 1n
G2 12 32 VALUE={MAX(V(43),V(44)*0.1185)}
R3 12 32 1T
V3 22 23 0
C2 23 12 1p
G3 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),8.986E-02),0.4),MIN(V(22,12),8.986E-02))}
C3 22 32 3.182n
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)     {-3.059E+00*ASINH(I/7.867E+01)*EXP((TEMP-T0)/9.475E+01)+(5.973E-02)*I*EXP((TEMP-T0)/111.4)}
.FUNC I11(V)     {2.593E-08*(EXP(V/4.852E-02/EXP((TEMP-T0)/7.494E+02))-1)*EXP((TEMP-T0)/25.55*EXP((TEMP-T0)/1000000))-
+                 3.7384E-20*(EXP(-V/19.566)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V)     {5.344E-07*(EXP(V/4.852E-02/EXP((TEMP-T0)/7.494E+02))-1)/EXP((TEMP-T0)/7.494E+02)*
+                 EXP((TEMP-T0)/25.55*EXP((TEMP-T0)/1000000))}
.FUNC C12(U,V,W) {(710.2*(V-(8.215E-02))+992.5*(1-W/8.215E-01)**-5.018E-01)
+                *(1+(TANH((U-(-1.152E+00))/9.300E-01)-1)/2.346E+00)+(-1.398E+00)}
V11  3 51 0
E11 51 52 VALUE={R11(MIN(MAX(I(V11),-2MEG),3MEG))}
V12 52 53 0
C11 53  1 1p
E12 54  0 VALUE={I(V12)*8000*C11(MIN(MAX(V(52,1),0),2))*EXP((TEMP-T0)/8740)}
G11 54 55 VALUE={V(54,55)/10000/(TANH(V(54,55))+1.002)/EXP((TEMP-T0)/6080)}
R11 54 55 1T
C12 55  0 1p
G12 52  1 VALUE={I11(MIN(MAX(V(52,1),-2k),2))+MIN(MAX(V(55),-1k),1k)+
+                I(V12)*C12(V(52,1),MAX(V(52,1),8.215E-02),MIN(V(52,1),8.215E-02))}
R12 52  1 1T
.ENDS RGW80TS65CHR
